US08614328B2
A solution of 3-(3-bromo-benzyloxy)-phthalic acid dimethyl ester (1.9 g, 5.8 mmol) in reagent alcohol (100 mL) and 3 N sodium hydroxide (60 mL) was refluxed for two hours. The solution was evaporated and the residue was dissolved in water (100 mL) and washed with methylene chloride (3×100 mL) then acidified to pH around 4. The resulting mixture was extracted with ethyl acetate (2×100 mL) and the combined extracts was washed with water (2×100 mL), dried and concentrated to give 3-(3-bromo-benzyloxy)-phthalic acid as an off-white solid (2.5 g, 109% crude yield). The product was used in the next step without further purification.

reactant | 3-(3-bromo-benzyloxy)-phthalic acid dimethyl ester | 5.8 mmol, 1.9 g | COC(C=1C(C(=O)OC)=C(C=CC1)OCC1=CC(=CC=C1)Br)=O | C17H15BrO5
solvent | sodium hydroxide | 3 N, 60 mL | [OH-].[Na+]
product | 3-(3-bromo-benzyloxy)-phthalic acid | BrC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C15H11BrO5
